US09102688B2
General Procedure 95: 4-Chloro-2-nitro-benzenesulfonic acid (Intermediate 446)
A suspension of Na2SO3 (3.26 g, 25.9 mmol) in EtOH (32 ml) and water (40 ml) was added to a solution of 5-chloro-2-fluoro nitrobenzene (2.0 g, 11.4 mmol) in EtOH (24 ml) and the mixture was heated at 70° C. for 16 h. After cooling, the mixture was acidified to pH=2 with conc. HCl (2 ml) and the solvent was removed in vacuo. The residue was diluted with brine solution (12 ml) and the mixture was heated under reflux for 2 h. The solution was cooled in ice bath and the resulting precipitate was collected by filtration to give the title compound (1.54 g, 57%) which was used in the next step without further purification.

reactant | Na2SO3 | 25.9 mmol, 3.26 g | [O-]S(=O)[O-].[Na+].[Na+]
reactant | 5-chloro-2-fluoro nitrobenzene | 11.4 mmol, 2.0 g | ClC=1C=CC(=C(C1)[N+](=O)[O-])F | C6H3ClFNO2
reactant | HCl | 2 ml | Cl | ClH
solvent | EtOH | 32 ml | CCO | C2H6O
solvent | water | 40 ml | O | H2O
solvent | EtOH | 24 ml | CCO | C2H6O
product | 4-Chloro-2-nitro-benzenesulfonic acid | 1.54 g, 57% | ClC1=CC(=C(C=C1)S(=O)(=O)O)[N+](=O)[O-] | C6H4ClNO5S
